* ==========================================================================
* @part: 2N7000 BS170
* @family: mosfet
* @source: Zetex
* @url: https://ngspice.sourceforge.io/model-parameters/MicroCap-LIBRARY.7z (Micro-Cap 12 library, Spectrum Software)
* @origin-file: ngspice/MicroCap-LIBRARY/MicroCap-LIBRARY-for-ngspice/zetex.lib
* @retrieved: 2026-09-24
* @licence: grant: "It is supplied free of charge by Zetex for the purpose of research and design and may be used or copied intact (including this notice) for that purpose only."; notice: "(C) 1996 ZETEX PLC The copyright in this model and the design embodied belong to"
* @added-by: nav
* @pins: 2N7000_ZX: 3 4 5
* @pins: BS170_ZX: 3 4 5
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
*ZETEX  BC80716 Spice model    Last revision  27/2/03
*
* ---- end of original file header ----

* ---- vendor notice (copied intact) ----
*
* For later versions of Spice use the following parameter to obtain
* better zener voltage variation over temperature.
* TBV1=.38E-3
*
*                          (C)  1996 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
*   ZETEX   BZX84C6V8   Spice Model   Last Revision 1/10/96
*

* ---- vendor notice (copied intact) ----
*
* For later versions of Spice use the following parameter to obtain
* better zener voltage variation over temperature.
* TBV1=.47E-3
*
*                          (C)  1996 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
*   ZETEX   BZX84C7V5   Spice Model   Last Revision 1/10/96
*

* ---- vendor notice (copied intact) ----
*
* For later versions of Spice use the following parameter to obtain
* better zener voltage variation over temperature.
* TBV1=.56E-3
*
*                          (C)  1996 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
*   ZETEX   BZX84C8V2   Spice Model   Last Revision 1/10/96
*

* ---- vendor notice (copied intact) ----
*
* For later versions of Spice use the following parameter to obtain
* better zener voltage variation over temperature.
* TBV1=.61E-3
*
*                          (C)  1996 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
*   ZETEX   BZX84C9V1   Spice Model   Last Revision 1/10/96
*

* ---- vendor notice (copied intact) ----
*
* For later versions of Spice use the following parameter to obtain
* better zener voltage variation over temperature.
* TBV1=.63E-3
*
*                          (C)  1996 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
*                    Zetex Spice Model Library 1V0C1
*           (Standard Version       Last Revision 28/June/93)
*
*
*
*   ZETEX  2N2222A Spice model   Last revision 9/12/92
*

*
*ZETEX  2N7000  Spice model    Last revision  3/5/00
*
.SUBCKT 2N7000_ZX 3 4 5
* Nodes        D G S
M1 3 2 5 5 MOD1
RG 4 2 343
RL 3 5 6E6
C1 2 5 23.5P
C2 3 2 4.5P 
D1 5 3 DIODE1
*
.MODEL MOD1 NMOS VTO=2.474 RS=1.68 RD=0.0 IS=1E-15 KP=0.296
+CBD=53.5P PB=1 LAMBDA=267E-6
.MODEL DIODE1 D IS=1.254E-13 N=1.0207 RS=0.222
.ENDS 2N7000_ZX

* ---- vendor notice (copied intact) ----
*
* For later versions of Spice use the following parameter to obtain
* better zener voltage variation over temperature.
* TBV1=.63E-3
*
*                          (C)  1996 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for

*
*ZETEX  BS170 Spice model    Last revision   3/5/00
*
.SUBCKT BS170_ZX 3 4 5
*             D G S
M1 3 2 5 5 N3306M
RG 4 2 270
RL 3 5 1.2E8
C1 2 5 28E-12
C2 3 2 3E-12 
D1 5 3 N3306D
*
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS BS170_ZX
