* ==========================================================================
* @part: AO3400
* @family: mosfet
* @source: AOS
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Models/Transistor/FET/AO3400.lib)
* @origin-file: KiCad-Spice-Library/Models/Transistor/FET/AO3400.lib
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: nav
* @pins: AO3400: 4 1 2
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

.SUBCKT AO3400 4 1 2

M1  3 1 2 2 NMOS W=998956u  L=1.0u 

M2  2 1 2 4 PMOS W=998956u  L=0.4u

R1  4 3     RTEMP 15E-3

CGS 1 2     225E-12

DBD 2 3     DBD

**************************************************************************

.MODEL  NMOS       NMOS  (LEVEL  = 3               TOX    = 2.5E-8

+ RS     = 2E-4           RD     = 0               NSUB   = 1.6E17  

+ kp     = 3E-5        	  UO     = 600             THETA  = 0

+ VMAX   = 0              XJ     = 4E-7            KAPPA  = 1.1

+ ETA    = 0              TPG    = 1  

+ IS     = 0              LD     = 0                           

+ CGSO   = 0              CGDO   = 0               CGBO   = 0 

+ NFS    = 2E10         DELTA  = 0.1)

*************************************************************************

.MODEL  PMOS       PMOS (LEVEL   = 3               TOX    = 2.5E-8

+NSUB    = 2.0E16           TPG    = -1)   

*************************************************************************

.MODEL DBD D (CJO=690E-12     VJ=0.6    M=0.3

+RS=0.005 FC=0.5 IS=1E-11 TT=1.5E-8 N=1.0 BV=36 IBV=1E-4)

*************************************************************************

.MODEL RTEMP RES (TC1=6.5E-3   TC2=1E-6)

*************************************************************************

.ENDS
